US08710076B2
t-butyl-(6-methylpyridin-3-yl)carbamate (G-1)
The title compound was prepared according to the literature procedure (Mitsuya, M.; Kobayashi, K.; Kawakami, K.; Satoh, A.; Ogino, Y.; Kakikawa, T.; Ohtake, N.; Kimura, T.; Hirose, H.; Sato, A.; Numazawa, T. J. Med. Chem. 2000, 43, 5017). A 100-mL round bottom flask was charged with 5-amino-2-picoline (10 g, 92.5 mmol) and MeOH (30 mL). TEA (25.8 mL, 185 mmol) and Boc2O (20.18 g, 92.5 mmol) were added, and the reaction mixture was stirred at room temperature for 3 days. The reaction mixture was partitioned between water and EtOAc, and extracted with EtOAc (3×200 mL). The combined organics were washed with brine (250 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The resulting crude yellow residue was purified by gradient elution on SiO2 (0% to 100% EtOAc/hexanes), to afford the title compound as a white crystalline solid (6.2 g, 32%). All spectral data matched literature values (Mitsuya, M.; Kobayashi, K.; Kawakami, K.; Satoh, A.; Ogino, Y.; Kakikawa, T.; Ohtake, N.; Kimura, T.; Hirose, F L; Sato, A.; Numazawa, T. J. Med. Chem. 2000, 43, 5017).

reactant | 5-amino-2-picoline | 92.5 mmol, 10 g | NC=1C=CC(=NC1)C | C6H8N2
reactant | Boc2O | 92.5 mmol, 20.18 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 30 mL | CO | CH4O
product | t-butyl-(6-methylpyridin-3-yl)carbamate | 6.2 g, 32% | C(C)(C)(C)OC(NC=1C=NC(=CC1)C)=O | C11H16N2O2
